US08558002B2
Preparation of Dimethyl 5,5′-(N-{[6-amino-5-({3-[(3-methylbenzoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)dipentanoate
To the reaction solution of dimethyl 5,5′-[N-({6-amino-5-[(3-aminophenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate (80 mg, 0.15 mmol, 1.0 equiv.), m-toluic acid (60 mg, 0.2 mmol, 1.3 equiv.), and DIPEA (0.11 mL, 0.6 mmol, 4.0 equiv.) in anhydrous DMF (1 mL) was added BOP (120 mg, 0.27 mmol, 1.8 equiv.) under nitrogen atmosphere. The reaction mixture was stirred at room temperature for overnight. It was then diluted with EtOAc, washed with sat. aq. NaHCO3, aq. NH4Cl, and brine, and finally dried with anhydrous Na2SO4. The solution was decanted, concentrated, and the oily residue was subject to a gradient column chromatography (from EtOAc-Hex 1:3 to 4:1) to afford the title compound as clear oil (76 mg). 1H NMR (DMSO-d6) δ: 10.29 (s, 1H), 8.57 (d, J=2.1 Hz, 1H), 8.07 (t, J=1.8 Hz, 1H), 8.04 (d, J=2.3 Hz, 1H), 7.79 (s, 1H), 7.74-7.78 (m, 2H), 7.38-7.46 (m, 4H), 7.00 (br. s., 2H), 3.54-3.63 (m, 10H), 2.41 (s, 3H), 2.39 (t, J=7.3 Hz, 4H), 1.71-1.86 (m, 4H), 1.64-1.71 (m, 4H)

reactant | dimethyl 5,5′-[N-({6-amino-5-[(3-aminophenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate | 0.15 mmol, 80 mg, 1.0 equiv. | NC1=C(C=C(C=N1)C(=O)N=S(=O)(CCCCC(=O)OC)CCCCC(=O)OC)C#CC1=CC(=CC=C1)N | C26H32N4O6S
reactant | m-toluic acid | 0.2 mmol, 60 mg, 1.3 equiv. | C1(=CC(=CC=C1)C(=O)O)C | C8H8O2
reactant | DIPEA | 0.6 mmol, 0.11 mL, 4.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | 0.27 mmol, 120 mg, 1.8 equiv. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Dimethyl 5,5′-(N-{[6-amino-5-({3-[(3-methylbenzoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)dipentanoate | 76 mg | NC1=C(C=C(C=N1)C(=O)N=S(=O)(CCCCC(=O)OC)CCCCC(=O)OC)C#CC1=CC(=CC=C1)NC(C1=CC(=CC=C1)C)=O | C34H38N4O7S
